US07098226B2
3-(4-Quinolyl)propylamine (Intermediate No. 12-1)
A catalytic amount of 10% palladium on carbon was added to a solution of 3-(4-quinolyl)-2-propenylamine (Intermediate No. 2-4) (188 mg, 1.02 mmol) obtained in Preparation Example 2 in methanol (3 ml) at room temperature under a nitrogen atmosphere, and the mixture was stirred under a hydrogen atmosphere overnight. The reaction mixture was filtered with Celite, the solvent was evaporated under reduced pressure, and the resulting residue was distributed with ethyl acetate (30 ml) and a saturated aqueous ammonium chloride solution (30 ml). A 4 N aqueous sodium hydroxide solution (30 ml) was added to the aqueous layer, the whole was extracted with chloroform (100 ml), and the obtained organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 145 mg (76.3%) of the titled compound.

reactant | 3-(4-quinolyl)-2-propenylamine | 1.02 mmol, 188 mg | N1=CC=C(C2=CC=CC=C12)C=CCN | C12H12N2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 3 ml | CO | CH4O
product | 3-(4-Quinolyl)propylamine | 145 mg, 76.3% | N1=CC=C(C2=CC=CC=C12)CCCN | C12H14N2
